US04211773
To a solution of 3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-D-arabinofuranosyl bromide (3.6 g, 0.01 mol) in methylene chloride (50 ml) is added a methylene chloride solution of 5-chloro-tris(trimethylsilyl)cytosine [prepared from 4.3 g, 0.03 mol. of 5-chlorocytosine as follows: a mixture of 5-chlorocytosine and 5-15 mg of ammonium sulfate in 43 ml of hexamethyldisilazane is heated to reflux until a clear solution is obtained. The excess hexamethyldisilazane is removed by evaporation in vacuo and the residue is dissolved in 25 ml of methylene chloride]. The mixture is stirred for 5 days at room temperature. Methanol (7 ml) is added to the reaction mixture, and the suspension is filtered through a Celite pad which is thoroughly washed with methylene chloride. The combined filtrate and washings are evaporated to dryness in vacuo and the residue is crystallized from ethanol to give 860 mg of 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-chlorocytosine, m.p. 233°.

reactant | 3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-D-arabinofuranosyl bromide | 0.01 mol, 3.6 g | C(C)(=O)O[C@H]1[C@@H](C(O[C@@H]1COC(C1=CC=CC=C1)=O)Br)F | C14H14BrFO5
reactant | 5-chloro-tris(trimethylsilyl)cytosine | ClC=1C(=NC(N(C1)[Si](C)(C)C)=O)N([Si](C)(C)C)[Si](C)(C)C | C13H28ClN3OSi3
reactant | 5-chlorocytosine | ClC=1C(=NC(NC1)=O)N | C4H4ClN3O
reactant | ammonium sulfate | 5-15 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | hexamethyldisilazane | 43 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 1-(3-O-acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-chlorocytosine | 860 mg | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)N=C(N)C(=C1)Cl)F | C18H17ClFN3O6
